US06943180B2
To a solution of 500 mg (2.05 mmol) of N-BOC-3(R)-hydroxy-(L)-proline, methyl ester and 1.7 g (12.2 mmol) of MeI in 10 mL of DMF was added 473 mg (2.05 mmol) of Ag2O. The mixture was stirred for 18 h and was then filtered through a pad of celite and concentrated. The crude residue was dissolved in EtOAc and washed with 1M HCl (2×10 mL), saturated NaHCO3 (2×10 mL), brine (1×10 mL), dried anhydrous MgSO4, and concentrated to give 500 mg of N-BOC-3(R)-methoxy-(L)-proline, methyl ester as a light yellow oil which was used without further purification.

reactant | N-BOC-3(R)-hydroxy-(L)-proline, methyl ester | 2.05 mmol, 500 mg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)OC)[C@@H](CC1)O | C11H19NO5
reactant | MeI | 12.2 mmol, 1.7 g | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-BOC-3(R)-methoxy-(L)-proline, methyl ester | 500 mg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)OC)[C@@H](CC1)OC | C12H21NO5
